US07799822B2
Prepared using general procedure 16. A mixture of N-(1,2,4-thiadiazol-5-yl)-4-(1-(2,2,2-trifluoroacetyl)piperidin-4-yl)benzenesulfonamide (2.0 g, 4.8 mmol), NaOH (1.92 g, 48.0 mmol), and H2O (25 mL) was stirred at RT for 30 minutes. An aqueous 1.0 N HCl solution was added (48.0 mL, 48 mmol), and the mixture was azeotroped with MeOH (3×100 mL). A 9:1 solution of CH2Cl2 and MeOH (100 mL) was added, and the mixture was filtered to remove NaCl. The filtrate was concentrated under reduced pressure to give 4-(piperidin-4-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide as a clear oil which solidified upon standing (1.5 g, 96%). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=325.3; tR=0.99 min.

reactant | N-(1,2,4-thiadiazol-5-yl)-4-(1-(2,2,2-trifluoroacetyl)piperidin-4-yl)benzenesulfonamide | 4.8 mmol, 2.0 g | S1N=CN=C1NS(=O)(=O)C1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O | C15H15F3N4O3S2
reactant | NaOH | 48.0 mmol, 1.92 g | [OH-].[Na+]
reactant | HCl | 1.0 N | Cl | ClH
solvent | H2O | 25 mL | O | H2O
product | 4-(piperidin-4-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | N1CCC(CC1)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NS1 | C13H16N4O2S2
